US06472396B1
5-[3-(4-Methoxyphenyl)propyl]-5-[4-(2-hydroxyethyl)piperazinyl]barbituric Acid
A of 5-Bromo-5-[3-(4-Methoxyphenyl)propyl]barbituric Acid (710 mg) and N-(2-hydroxyethyl)piperazine (281 mg) in 25 ml of ethanol is refluxed for 4 hours. The solvent is evaporated under reduced pressure and the residue is partitioned between 1 N hydrochloric acid and ethyl acetate. The aqueous phase is basified to pH=6-7 and extracted with ethyl acetate. The organic phase is concentrated to dryness and the residue is crystallized from ethyl acetate to give 30 mg of the product.

reactant | 5-Bromo-5-[3-(4-Methoxyphenyl)propyl]barbituric Acid | 710 mg | BrC1(C(NC(NC1=O)=O)=O)CCCC1=CC=C(C=C1)OC | C14H15BrN2O4
reactant | N-(2-hydroxyethyl)piperazine | 281 mg | OCCN1CCNCC1 | C6H14N2O
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | 5-[3-(4-Methoxyphenyl)propyl]-5-[4-(2-hydroxyethyl)piperazinyl]barbituric Acid | 30 mg | COC1=CC=C(C=C1)CCCC1(C(NC(NC1=O)=O)=O)N1CCN(CC1)CCO | C20H28N4O5
